US09315521B2
To a solution of (4-ethyl-1,3-thiazol-5-yl)methanol (1.0 g, 7.0 mmol) in anhydrous dichloromethane (50 mL) was added tribromophosphane (725 μL, 7.6 mmol). The mixture was stirred at room temperature for 2 hours. Dichloromethane was evaporated. The residue was dried in vacuo, affording 5-(bromomethyl)-4-ethyl-1,3-thiazole. The crude product was used without further purification.

reactant | (4-ethyl-1,3-thiazol-5-yl)methanol | 7.0 mmol, 1.0 g | C(C)C=1N=CSC1CO | C6H9NOS
reactant | tribromophosphane | 7.6 mmol, 725 μL | BrP(Br)Br | Br3P
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(bromomethyl)-4-ethyl-1,3-thiazole | BrCC1=C(N=CS1)CC | C6H8BrNS
